US05032583
N-(cis-2-Hydroxycyclopentyl)adenosine
A mixture of N-(cis-2-hydroxycyclopent-4-enyl)adenosine (1.6 g), 5% platinum on charcoal (0.3 g) and ethanol (80 ml) was stirred in the presence of hydrogen for 20 h. The resulting mixture was filtered and the filtrate was evaporated. The residue was dissolved in methanol (50 ml) and the solution was evaporated to yield the title compound (1.2 g) as a foam.

reactant | N-(cis-2-hydroxycyclopent-4-enyl)adenosine | 1.6 g | O[C@@H]1[C@@H](C=CC1)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C15H19N5O5
reactant | hydrogen | [H][H] | H2
catalyst | platinum on charcoal | 0.3 g | [Pt] | Pt
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(cis-2-Hydroxycyclopentyl)adenosine | 1.2 g | O[C@@H]1[C@@H](CCC1)NC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C15H21N5O5
